US20010000513A1
To a stirred suspension of anhydrous aluminum chloride (9.64 g, 0.0723 mol) in dichloromethane (90 mL) at 5° C. was added dropwise a solution of 4-fluorobiphenyl (4.97 g, 0.0289 mol) in dichloromethane (40 mL) followed by the dropwise addition of a solution of 3-carbomethoxypropionyl chloride (3.94 mL, 0.032 mol) in dichloromethane (30 mL), and the mixture stirred. After 2 hours at 5° C., the mixture was allowed to warm to room temperature. After 1 day, the reaction was cooled to 5° C. and quenched by the dropwise addition of water (160 mL). The layers were separated, and the organic layer washed with brine, dried (Na2SO4), and rotary evaporated. The residue was recrystallized from methanol (300 mL) to give 6.17 g of 4-(4′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester as a pale yellow solid; mp 131.5-133.0° C.

reactant | aluminum chloride | 0.0723 mol, 9.64 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-fluorobiphenyl | 0.0289 mol, 4.97 g | FC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9F
reactant | 3-carbomethoxypropionyl chloride | 0.032 mol, 3.94 mL | C(=O)(OC)CCC(=O)Cl | C5H7ClO3
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-(4′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester | 6.17 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)OC)=O | C17H15FO3
